*****************************************************************
* NXP BUK7Y38-100E
*
* Polarity N-Channel
* Ratings 100V/3.800000E-002OHMS/30.0320793810714A
*
* Date Created Mon Feb 04 07:50:57 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y38-100E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0235315 TC=0.00566687848578243,3.37361265727176E-05
RBD 9 4 0.0020071815880255 TC=0.00566687848578243,3.37361265727176E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.19e-09
RG 1 2 2.17663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1326.36
+ -10	1324.69
+ -8	1322.23
+ -6	1317.59
+ -5	1311.75
+ -4	1287.35
+ -3	1364.69
+ -2	1188.52
+ -1	993.068
+ -0.5	872.738
+ -0.2	784.775
+ -0.1	782.168
+ 0	717.53934
+ 0.1	615.1682
+ 0.2	614.57072
+ 0.5	490.98556
+ 1	397.12196
+ 2	301.45492
+ 3	253.02588
+ 4	224.87816
+ 5	204.84336
+ 6	190.08212
+ 8	169.46308
+ 10	155.2826
+ 12	144.59412
+ 15	132.56988
+ 16	129.11924
+ 20	118.57428
+ 25	108.76352
+ 30	101.33412
+ 50	83.32576




.MODEL MINT NMOS(Vto=3.8 Kp=90 Nfs=590000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=3.17137737988774e-13
+ N=1 M=0.64 VJ=0.5 Fc=0.5 Cjo=3.8013552e-10 Tt=2.2592e-08)

.ENDS

